US06180627B2
Benzyl N-(6-methyl-2-oxo-1,2-dihydro-3-pyridinyl)carbamate
A suspension of 6-methyl-2-oxo-2,3-dihydro-3-pyridinecarboxylic acid (20 g, 0.13 mol) in dioxan (400 ml) was treated with triethylamine (22 ml, 0.15 mol) followed by diphenylphosphoryl azide (30.8 ml, 0.14 mol) and heated under reflux for 2 hr. A further portion of diphenylphosphoryl azide (3 ml) and triethylamine (2 ml) were added and heated under reflux for a further 1 hr. The resultant mixture was then treated with benzyl alcohol (18.8 ml, 0.18 mol) and heated under reflux for 18 hr. The resultant mixture was cooled, evaporation of the solvent gave a crude solid which was triturated with water. The solid was collected by filtration, washed with HCl (1N, 300 ml) then water. The solid was triturated with diethyl ether, filtered, washed with diethyl ether and dried to give the desired product (22 g, 65%). 1H NMR (CDCl3) δ 1.20 (s, 1H), 2.30 (s, 3H), 5.20 (s, 2H), 6.05 (d, 1H), 7.40 (m, 5H), 7.70 (s, 1H), 8.00 (d, 1H). LRMS m/z=259.2 (M+1)+.

reactant | 6-methyl-2-oxo-2,3-dihydro-3-pyridinecarboxylic acid | 0.13 mol, 20 g | CC=1C=CC(C(N1)=O)C(=O)O | C7H7NO3
reactant | triethylamine | 0.15 mol, 22 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 0.14 mol, 30.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | diphenylphosphoryl azide | 3 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 0.18 mol, 18.8 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | dioxan | 400 ml | O1CCOCC1 | C4H8O2
product | Benzyl N-(6-methyl-2-oxo-1,2-dihydro-3-pyridinyl)carbamate | 22 g, 65% | CC1=CC=C(C(N1)=O)NC(OCC1=CC=CC=C1)=O | C14H14N2O3
